US08134001B2
Preparation of intermediate 2-(4-bromo-2-formyl-phenoxy)-2-methyl-propionic acid ethyl ester
To a mixture of 5-bromo-2-hydroxy-benzaldehyde (14 g, 70 mmol), KI (5 g) and K2CO3 (19 g, 140 mmol) in DMF (100 mL) was added 2-bromo-2-methyl-propionic acid ethyl ester (17.6 g, 90 mmol). The mixture was heated at 140° C. for 2 h, and then cooled to room temperature, partitioned between water and ethyl acetate. The organic layer was washed with water, dried over anhydrous Na2SO4 and concentrated. The residue was purified by column chromatography to give the title compound (15 g).

reactant | 5-bromo-2-hydroxy-benzaldehyde | 70 mmol, 14 g | BrC=1C=CC(=C(C=O)C1)O | C7H5BrO2
reactant | K2CO3 | 140 mmol, 19 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-bromo-2-methyl-propionic acid ethyl ester | 90 mmol, 17.6 g | C(C)OC(C(C)(C)Br)=O | C6H11BrO2
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 2-(4-bromo-2-formyl-phenoxy)-2-methyl-propionic acid ethyl ester | 15 g | C(C)OC(C(C)(C)OC1=C(C=C(C=C1)Br)C=O)=O | C13H15BrO4
